US05610293
E. Synthesis of Cyclo-(Gly-Ala-Gly-DAla-Gly-)
This compound was synthesized by the method of Veber, D. F. et al, J. Org. Chem. 44., 3101-5 (1979). To a solution of Gly-Ala-Gly-DAla-Gly.HCl prepared as in Example 34D (9.70 g, 26.4 mmol) in anhydrous DMF (3200 ml) was added enough TEA to adjust the pH to ~8 (measured by spotting the reaction mixture on moistened Hydrion paper) and the resulting mixture was cooled to -40° C. To this mixture was added DPPA (8.86 g, 32.2 mmol) dropwise over 5 min. The temperature was maintained at ~-35° C. for a period of 5 h and then the reaction mixture was stored at -25° C. (internal temperature) for 48 h thereafter. During this time the pH was monitored periodically (as described above) and maintained at ~8 by the addition of TEA. After this time the reaction mixture was allowed to stand at 0° C. for 48 h. Again the pH was monitored periodically and maintained at ~8 by the addition of TEA. After this time the reaction was diluted with water (3200ml) and stirred with Bio-Rad AG 501-X8 (mixed-bed) resin (1500 g) for 6 h. The resin was separated by filtration and the solution was concentrated to dryness. Trituration of the residue with refluxing THF for 12 h, filtration of the hot THF and drying at high vacuum afforded 5.50 g (67% yield) of the product as a white powder: mp>300° C. (dec); 1H NMR (DMSO-d6) δ 1.16-1.25 (m, 6 H), 3.38-4.23 (m, 8 H), 7.55 (t, J=5.6 Hz, 1 H), 7.60 (t, J=5.4 Hz, 1 H), 8.20-8.25 (m, 1 H), 8.40 (d, J=7.6 Hz, 1 H); FAB mass spectrum (NBA+Li+) m/z 320 (M+Li)+.

reactant | Gly-Ala-Gly-DAla-Gly.HCl | NCC(=O)N[C@@H](C)C(=O)NCC(=O)N[C@H](C)C(=O)NCC(=O)O.Cl
reactant | DPPA | 32.2 mmol, 8.86 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 3200 ml | CN(C)C=O | C3H7NO
solvent | water | 3200ml | O | H2O
product | Cyclo-(Gly-Ala-Gly-DAla-Gly-) | 5.50 g, 67% yield | N1CC(=O)N[C@@H](C)C(=O)NCC(=O)N[C@H](C)C(=O)NCC1=O | C12H19N5O5
